US07612067B2
Preparation of 8-(1-ethyl-propyl)-2,6-dimethyl-3-[3-methyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine
Using a procedure similar to Example 32, 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.60 g, 1.53 mmol) and PdCl2(dppf) (0.056 g, 0.076 mmol) and 0.5 M solution of 6-methyl-2-pyridylzinc bromide in THF (6.0 mL, 3.06 mmol) furnish the title compound (0.29 g, 0.72 mmol, 47%). 1H NMR (CDCl3), δ 0.89 (t, J=7.5 Hz, 6H), 1.73-1.93 (m, 4H), 2.16 (s, 3H), 2.50 (s, 3H), 2.52 (s, 3H), 2.58 (s, 3H), 3.31-3.40 (m, 1H), 6.67 (s, 1H), 7.00 (d, J=7.9 Hz, 1H), 7.45 (d, J=7.9 Hz, 1H), 7.52 (s, 1H), 8.56 (t, J=7.7 Hz, 1H). LC/MS (m/z): calcd. for C24H28N4 (M+H)+: 405.7; found: 405.2.

reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.53 mmol, 0.60 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | 6-methyl-2-pyridylzinc bromide | [Br-].CC1=CC=CC(=N1)[Zn+]
reactant | THF | 3.06 mmol, 6.0 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.076 mmol, 0.056 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(1-ethyl-propyl)-2,6-dimethyl-3-[3-methyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine | 0.72 mmol, 0.29 g, 47% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2C)C2=NC(=CC=C2)C | C24H28N4S
